US07317037B2
B. (2-fluoro-6-nitrophenyl)acetic acid
2-(2-Fluoro-6-nitro-phenyl)-malonic acid dimethyl ester (6.5 g, 23.98 mmol) was refluxed in 200 mL 6N hydrochloric acid for 24 hours. The solid was collected by suction filtration, and dried to give 3.3 g, 54% yield of the title compound.

reactant | 2-(2-Fluoro-6-nitro-phenyl)-malonic acid dimethyl ester | 23.98 mmol, 6.5 g | COC(C(C(=O)OC)C1=C(C=CC=C1[N+](=O)[O-])F)=O | C11H10FNO6
solvent | hydrochloric acid | 6N, 200 mL | Cl | ClH
product | (2-fluoro-6-nitrophenyl)acetic acid | 3.3 g, 54% yield | FC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C8H6FNO4
